US08350044B2
Preparation of (2,4-dichloro-thiazol-5-yl)-(3-methylsulfanyl-propionyl)-carbamic acid tert-butyl ester
To a solution of (2,4-dichloro-thiazol-5-yl)-carbamic acid tert-butyl ester (1.0 g, 3.7 mmol) in dichloroethane (20 mL) stirring at room temperature was added triethylamine (935 mg, 9.25 mmol), followed by dropwise addition of methylsulfanyl-propionyl chloride (776 mg, 5.6 mmol) and the mixture was stirred for 5 min before DMAP (45 mg, 0.37 mmol) was added. The mixture was stirred at 75° C. for 4 h. The reaction mixture was cooled, quenched with H2O (30 mL). The organic layer was separated and the aqueous layer extracted with dichloromethane (20 mL). The combined organic layer was dried over Na2SO4 and purified by silica gel chromatography (0 to 100% ethyl acetate/hexanes) to give product as a colorless oil (1.11 g, 81%): 1H NMR (300 MHz, CDCl3) δ 3.32 (t, J=7.3 Hz, 2H), 2.83 (t, J=7.3 Hz, 2H), 2.16 (s, 3H), 1.46 (s, 9H); ESIMS m/z 371.2 (M+1).

reactant | (2,4-dichloro-thiazol-5-yl)-carbamic acid tert-butyl ester | 3.7 mmol, 1.0 g | C(C)(C)(C)OC(NC1=C(N=C(S1)Cl)Cl)=O | C8H10Cl2N2O2S
reactant | triethylamine | 9.25 mmol, 935 mg | C(C)N(CC)CC | C6H15N
reactant | methylsulfanyl-propionyl chloride | 5.6 mmol, 776 mg | CSCCC(=O)Cl | C4H7ClOS
solvent | dichloroethane | 20 mL | ClC(C)Cl | C2H4Cl2
catalyst | DMAP | 0.37 mmol, 45 mg | CN(C)C=1C=CN=CC1 | C7H10N2
product | (2,4-dichloro-thiazol-5-yl)-(3-methylsulfanyl-propionyl)-carbamic acid tert-butyl ester | 1.11 g, 81% | C(C)(C)(C)OC(N(C(CCSC)=O)C1=C(N=C(S1)Cl)Cl)=O | C12H16Cl2N2O3S2
